US07534792B2
1A. Pyrrolo[2,1-f][1,2,4]triazine-2,4(1H,3H)-dione
Ethyl chloroformate (4.9 ml, 51 mmole) was added dropwise to a stirred mixture of 1-amino-1H-pyrrole-2-carboxamide (5.85 gm, 46.7 mmole, Journal of Heterocyclic Chemistry, 1994, 31, 781) and dry pyridine (4.2 mL, 51 mmole) in dry dioxane (48 mL) under N2 at RT. This was heated at reflux for 1 hr and then the solvent was removed. The residue was heated at 155° C. for 17 hr and then allowed to cool to RT. This was triturated with methanol and the solid was collected by filtration and washed with cold methanol to give the product, 4.43 gm (63% yield): MS: 152 (M+H)+; HPLC Ret Time: 0.36 min (YMC Xterra S7 3.0×50 mm column, 2 min gradient, 5 mL/min).

reactant | Ethyl chloroformate | 51 mmole, 4.9 ml | ClC(=O)OCC | C3H5ClO2
reactant | 1-amino-1H-pyrrole-2-carboxamide | 46.7 mmole, 5.85 gm | NN1C(=CC=C1)C(=O)N | C5H7N3O
reactant | pyridine | 51 mmole, 4.2 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 48 mL | O1CCOCC1 | C4H8O2
product | Pyrrolo[2,1-f][1,2,4]triazine-2,4(1H,3H)-dione | 63% yield | N1N2C(C(NC1=O)=O)=CC=C2 | C6H5N3O2
